US07897597B2
Under a nitrogen atmosphere, a mixture of 1-{[3-amino-7-(benzyloxy)quinolin-4-yl]amino}-2-methylpropan-2-ol (45.0 g, 0.133 mol) and acetonitrile (180 mL) was heated to 40° C. Acetoxyacetyl chloride (21.8 g, 0.160 mol) was added to the resulting gray suspension over a period of 15 minutes while maintaining the temperature at 55±5° C. during the addition. Following the addition, a precipitate formed, and the reaction was heated at 55° C. for 15 minutes. The reaction mixture was then cooled to ˜0° C., and the product was isolated by filtration, washed sequentially with a small amount of acetonitrile and acetone, and dried under vacuum at 50° C. to provide 57.6 g of 2-({7-benzyloxy-4-[(2-hydroxy-2-methylpropyl)amino]quinolin-3-yl}amino)-2-oxoethyl acetate hydrochloride.

reactant | 1-{[3-amino-7-(benzyloxy)quinolin-4-yl]amino}-2-methylpropan-2-ol | 0.133 mol, 45.0 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(O)C)OCC1=CC=CC=C1 | C20H23N3O2
reactant | Acetoxyacetyl chloride | 0.160 mol, 21.8 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
product | 2-({7-benzyloxy-4-[(2-hydroxy-2-methylpropyl)amino]quinolin-3-yl}amino)-2-oxoethyl acetate hydrochloride | 57.6 g | Cl.C(C)(=O)OCC(=O)NC=1C=NC2=CC(=CC=C2C1NCC(C)(C)O)OCC1=CC=CC=C1 | InChI=1S/C24H27N3O5.ClH/c1-16(28)31-14-22(29)27-21-12-25-20-11-18(32-13-17-7-5-4-6-8-17)9-10-19(20)23(21)26-15-24(2,3)30;/h4-12,30H,13-15H2,1-3H3,(H,25,26)(H,27,29);1H
